US20010019995A1
To a solution of 4.16 g (0.0247 mol) of 2-pentyl-hept-1-ene in 31 ml of pentanes, was added 4.95 g (0.0441 mol) of potassium t-butoxide. While cooling the resulting mixture to an internal temperature of 5° C., 4.01 ml ( 0.0459 mol) of bromoform was added slowly via addition funnel. The reaction mixture was allowed to warm naturally to room temperature and left overnight. To the reaction mixture was added 25 ml of water then 36 ml of 1N hydrochloric acid. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 7.00 g (83.4 % of theory) of 2,2-dibromo-1,1-dipentyl-cyclopropane as an oil.

reactant | 2-pentyl-hept-1-ene | 0.0247 mol, 4.16 g | C(CCCC)C(=C)CCCCC | C12H24
reactant | potassium t-butoxide | 0.0441 mol, 4.95 g | CC(C)([O-])C.[K+]
reactant | bromoform | 0.0459 mol, 4.01 ml | C(Br)(Br)Br | CHBr3
reactant | hydrochloric acid | 1N, 36 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2,2-dibromo-1,1-dipentyl-cyclopropane | 7.00 g, 83.4 % | BrC1(C(C1)(CCCCC)CCCCC)Br | C13H24Br2
